US20010021775A1
After 4-amino-3-nitrobenzonitrile (3.26 g, 20 mmol) was treated with hydrogen in MeOH (300 mL) in the presence of 5% palladium on active carbon (1 g) at room temperature for 16 hours, the reaction mixture was filtered and the filtrate was concentrated to give 3,4-diaminobenzonitrile (2.4 g, 90% yield). A solution of 3,4-diaminobenzonitrile (2 g, 15 mmol) in THF (100 mL) was treated with carbonyldiimidazole (CDI, 3.2 g, 19 mmol) at room temperature for 18 hours. The mixture was diluted with EtOAc (150 mL), washed with 1N HCl (30 mL) and brine, and dried over MgSO4. Filtration and concentration gave 5-cyanobenzimidazolinone (1.9 g, 80%). 1H NMR (CD3OD) δ7.40 (dd, J=8.1 Hz, J=1.5 Hz, 1H), 7.34 (d, J=1.5 Hz, 1H), 7.15 (d, J=8.1 Hz, 1H); MS: 160.1 (M+H)+.

reactant | 3,4-diaminobenzonitrile | 15 mmol, 2 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | carbonyldiimidazole | 19 mmol, 3.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 5-cyanobenzimidazolinone | 1.9 g, 80% | C(#N)C1=CC2=C(NC(N2)=O)C=C1 | C8H5N3O
